US06514971B1
The starting material, 5-benzyloxy-2-fluoro-4-methylaniline, was obtained by adding iron powder (2.88 g, 51 mmol), in portions, to a solution of 5-benzyloxy-2-fluoro-4-methylnitrobenzene (4.8 g, 18 mmol) in acetic acid (33 ml) and water (5.7 ml), at ambient temperature. The mixture was heated and after stirring at 100° C. for 10 minutes, it was cooled and partitioned between ethyl acetate and water. The organic layer was washed with water, aqueous saturated sodium carbonate solution and then brine, dried (MgSO4) and the solvent evaporated. The residue was purified by flash chromatography using petroleum ether/ethyl acetate (8/2) as eluent to give 5-benzyloxy-2-fluoro-4-methylaniline (3.65 g, 87%).

reactant | 5-benzyloxy-2-fluoro-4-methylnitrobenzene | 18 mmol, 4.8 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)[N+](=O)[O-])F)C | C14H12FNO3
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
solvent | water | 5.7 ml | O | H2O
catalyst | iron | 51 mmol, 2.88 g | [Fe] | Fe
product | 5-benzyloxy-2-fluoro-4-methylaniline | 3.65 g, 87% | C(C1=CC=CC=C1)OC=1C(=CC(=C(N)C1)F)C | C14H14FNO
